US06054413
Intermediate 5.3: 5-Allyloxy-4-chloro-2-fluorobenzoic acid
At 20-25 C., 200 ml (0.4 mol) of a 2 M solution of isopropyl-magnesium chloride and tetrahydrofuran were added over a period of 30 minutes to a solution of 85 g (0.32 mol) of 1-allyloxy-5-bromo-2-chloro-4-fluorobenzene in 200 ml of tetrahydrofuran. The mixture was then stirred for 30 minutes and 50 g (1.1 mol) of dry ice were added with ice-cooling. The mixture was subsequently stirred for 16 hours, after which 250 ml of a 10% strength hydrochloric acid were added with ice-cooling. The aqueous phase was separated off and extracted with methyl tert-butyl ether. The combined organic phases were washed with saturated aqueous sodium chloride solution, dried over magnesium sulfate and finally concentrated. The crude product was purified by trituration with a little n-hexane and the precipitated product of value was filtered off. Yield: 59.7 g.

reactant | isopropyl-magnesium chloride | C(C)(C)[Mg]Cl
reactant | 1-allyloxy-5-bromo-2-chloro-4-fluorobenzene | 0.32 mol, 85 g | C(C=C)OC1=C(C=C(C(=C1)Br)F)Cl | C9H7BrClFO
reactant | dry ice | 1.1 mol, 50 g | C(=O)=O | CO2
reactant | hydrochloric acid | Cl | ClH
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
product | 5-Allyloxy-4-chloro-2-fluorobenzoic acid | C(C=C)OC=1C(=CC(=C(C(=O)O)C1)F)Cl | C10H8ClFO3
